US04563448
46.5 g (0.3 mole) of 6-chlorohexanoic acid and 35.6 g of benzyl alcohol in 500 ml of toluene are heated in the presence of 1 g of p-toluenesulphonic acid, using a water separator. When the reaction has ended, the mixture is washed with 5% strength sodium bicarbonate solution and water, dried with sodium sulphate and concentrated and the residue is distilled, 61.5 g (85% of theory) of benzyl 6-chlorohexanoate of boiling point 163° to 165°/4 mm being obtained.

reactant | 6-chlorohexanoic acid | 0.3 mole, 46.5 g | ClCCCCCC(=O)O | C6H11ClO2
reactant | benzyl alcohol | 35.6 g | C(C1=CC=CC=C1)O | C7H8O
reactant | water | O | H2O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | benzyl 6-chlorohexanoate | 61.5 g, 85% | ClCCCCCC(=O)OCC1=CC=CC=C1 | C13H17ClO2
